US07037921B2
3-(3,5-Dichloro-pyridin-4-yl)-5-methyl-isoxazole-4-carboxylic acid
Combine 3-(3,5-dichloro-pyridin-4-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (2.75 g, 0.009 mol) with aqueous sodium hydroxide (2N, 30.0 mL, 0.06 mol), ethanol (5 mL), and tetrahydrofuran (5 mL) and stir overnight at ambient temperature. Remove the organic solvents in vacuo and adjust the aqueous mixture to approx. pH 2.0 with aqueous hydrochloric acid. Extract with ethyl acetate and dry the combined extracts over sodium sulfate and concentrate in vacuo. Drying nets the desired isoxazole acid as a light solid (2.42 g, 97%). MS(ES): (M+1)+ 273.0, 275.0 m/z.

reactant | 3-(3,5-dichloro-pyridin-4-yl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 0.009 mol, 2.75 g | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=NC=C1Cl)Cl | C12H10Cl2N2O3
reactant | sodium hydroxide | 0.06 mol, 2N, 30.0 mL | [OH-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3,5-Dichloro-pyridin-4-yl)-5-methyl-isoxazole-4-carboxylic acid | ClC=1C=NC=C(C1C1=NOC(=C1C(=O)O)C)Cl | C10H6Cl2N2O3
